US05428065
A 1M solution of boron tribromide in dichloromethane (5 ml, 5 mmol) was added to an ice water cooled solution of 8-(4-methoxyphenyl)octylbromide (1.5 g, 5 mmol) in dichloromethane (10 ml). After 4 hours at room temperature, water was added and the dichloromethane separated, washed with water, dried over anhydrous magnesium sulphate, and evaporated to give an oil, which was chromatographed over flash silica, eluting with chloroform, followed by 2% methanol in chloroform to give 8-(4-hydroxyphenyl)octylbromide as an oil (MS: M+ =284).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 8-(4-methoxyphenyl)octylbromide | 5 mmol, 1.5 g | COC1=CC=C(C=C1)CCCCCCCCBr | C15H23BrO
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mmol, 5 ml | ClCCl | CH2Cl2
product | 8-(4-hydroxyphenyl)octylbromide | OC1=CC=C(C=C1)CCCCCCCCBr | C14H21BrO
